Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w HTN, HLD presents after fall, +LOC. She reportedly was
walking down the stairs when one of her grandchildren ran below
her causing her to trip and fall down 3 stairs. She reports this
was a mechanical fall but does not remember waking up on the
floor. She denied any prior chest pain, palpitations, shortness
of breath, fevers/chills. She was taken to an OSH where she was
found to have R sided rib fractures as well as a ST depression 
on
an EKG and therefore was transferred to ___ for further care

 
Past Medical History:
HTN, HLD

 
Social History:
___
Family History:
Father: headache, unspecified
 
Physical Exam:
ADMISSION EXAM
Temp 98.5 HR  94 BP 124/76 RR 18 SaO2 91%/RA 
GEN: A&Ox3, NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: no respiratory distress, unlabored respirations, R chest
wall tenderness, no obvious ecchymosis
ABD: soft, non-distended, non-tender, no rebound or guarding
PELVIS: stable
EXT: WWP, no edema
NEURO: A&Ox3, no focal neurologic deficits
DERM: no rashes/lesions/ulcers

DISCHARGE EXAM
BP 150 / 93 HR 86 RR 18 91 %Ra  
General: alert, oriented to self and "a hospital in ___ not
date.
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, soft II-III/VI
diastolic murmur heard best at LUSB. No rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
98.3

 
Pertinent Results:
ADMISSION LABS
___ 06:12PM BLOOD WBC-13.2* RBC-5.12 Hgb-14.1 Hct-45.7* 
MCV-89 MCH-27.5 MCHC-30.9* RDW-13.7 RDWSD-44.9 Plt ___
___ 06:12PM BLOOD Neuts-85.0* Lymphs-10.1* Monos-4.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.22* AbsLymp-1.33 
AbsMono-0.55 AbsEos-0.00* AbsBaso-0.02
___ 06:12PM BLOOD Glucose-136* UreaN-24* Creat-0.9 Na-141 
K-4.6 Cl-100 HCO3-22 AnGap-19*
___ 06:12PM BLOOD CK-MB-5 proBNP-93
___ 06:12PM BLOOD Calcium-10.3 Phos-3.2 Mg-1.7

DISCHARGE LABS
___ 07:17AM BLOOD WBC-7.6 RBC-4.59 Hgb-12.6 Hct-41.9 MCV-91 
MCH-27.5 MCHC-30.1* RDW-14.3 RDWSD-47.7* Plt ___
___ 07:17AM BLOOD Glucose-130* UreaN-22* Creat-0.8 Na-143 
K-4.8 Cl-104 HCO3-24 AnGap-15
___ 07:17AM BLOOD Calcium-9.1 Phos-2.7 Mg-2.0

NOTABLE LABS
___ 06:12PM BLOOD cTropnT-0.14*
___ 12:56AM BLOOD CK-MB-4 cTropnT-0.14*
___ 07:16AM BLOOD CK-MB-3 cTropnT-0.09*
___ 12:44AM BLOOD CK-MB-6 cTropnT-0.06*

IMAGING
TTE ___
The left atrial volume index is normal. The interatrial septum 
is dynamic, but not frankly aneurysmal. There is
no evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg.
There is normal left ventricular wall thickness with a normal 
cavity size. There is normal regional and global
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is >=55%.
Left ventricular cardiac index is normal (>2.5 L/min/m2). There 
is no resting left ventricular outflow tract
gradient with no change with Valsalva. No ventricular septal 
defect is seen. Normal right ventricular cavity size
with normal free wall motion. Tricuspid annular plane systolic 
excursion (TAPSE) is normal. The aortic sinus
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is
normal. There is no evidence for an aortic arch coarctation. The 
aortic valve leaflets (3) are mildly thickened.
There is minimal aortic valve stenosis. There is mild to 
moderate [___] aortic regurgitation. The mitral valve
leaflets are mildly thickened with no mitral valve prolapse. 
There is trivial mitral regurgitation. The tricuspid
valve leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. The estimated pulmonary
artery systolic pressure is borderline elevated. There is no 
pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function. Minimal aortic stenosis. Mild to 
moderate aortic regurgitation.

Renal US ___.  No evidence of hydronephrosis or nephrolithiasis. 
2.  Numerous bilateral, simple or thinly septated renal cysts 
measuring up to 
2.0 cm in the right upper pole and 1.2 cm in the left interpolar 
region, 
without concerning features. 

CXR ___.  No definite displaced rib fractures are identified.  If 
there is high 
clinical concern for a rib fracture, further evaluation may be 
performed with 
dedicated rib series. 
2.  No pneumothorax or acute cardiopulmonary process. 
  

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with history of HTN, HLD 
who presented to ___ from an outside hospital after a fall 
down stairs, found to have R rib fx
___ non-displaced, ST depressions in V3-6 and elevated troponin.

ACTIVE ISSUES
=============
#Mechanical fall
#Non-displaced rib-fracture. Patient presented to OSH on ___own 5 stairs, reportedly after tripping on a
grandson that was playing on the stairs. Per report from
patient's daughter, she was altered after the fall with eyes 
open
but not responsive immediately to verbal stimuli. Reportedly
awoke after having her name called multiple times. Was at mental 
status baseline by hospital day 1. Patient endorsed LOC after 
the fall but denied head
strike, ___- or retrograde amnesia. She denied prodrome prior
to fall. She was initially managed by the trauma surgery service 
but transferred to the hospital medicine service on ___ given 
non-operative nature of injuries. NCHCT at OSH wnl. Fall appears 
mechanical vs multifactorial but pursued
broad syncope workup given patient's advanced age and
co-morbidities. Telemetry showed no evidence of arrhythmia. TTE 
___ showedEF > 55%, moderate AR, minimal AS, mild TR and thus 
no evidence of structural lesions (severe AS, HoCM) that would 
lead to syncope without prodrome. Orthostatics checked on ___ 
and negative. Continue pain control with TraMADol 25 mg PO 
Q6H:PRN pain, Acetaminophen 1000 mg PO/NG Q8H, Lidocaine patch. 
___ evaluated patient and noted no ___ needs.

#NSTEMI. Initial EKG concerning for ST depressions in V3-V6, 
with
troponin elevated to peak 0.14 and then downtrended to 0.06 as 
of
___, likely demand in setting of fall and pain. TTE with no 
focal wall motion abnormalities. Patient's
symptoms are not suggestive of angina or MI and her fall was not
preceded by
chest pain. She did have right-sided chest pain post-fall but 
was persistent from presentation onward, described as sharp 
chest pain and bilateral arm pain, exacerbated by moving too 
abruptly or taking deep breaths. Denied associated
diaphoresis, nausea, vomiting, SOB, light-headedness or
palpitations; appears to be MSK in
nature and ___ to rib fracture.
- Continued home ASA 81 daily
- Continued simvastatin daily
- Will likely need further cardiac risk stratification in
outpatient setting (Exercise stress)

# ___
Cr elevated to 1.4 from baseline 0.9, currently down to 1.2.
Unclear etiology. Likely pre-renal vs CIN given recent study.
Encouraged good PO intake, gave 1 L IVF on ___ and creatinine 
improved to 0.8. Held home lisinopril initially and HCTZ iso 
___.

# New O2 requirement. Resolved.
Was not on O2 at home but here satting in low ___ on 1L NC on
___. No evidence of edema or PNA on CXR, although images show 
low lung volumes with some increased interstitial markings on 
the right
side likely ___ low volume. Pro BNP normal at 93 on ___. Most
likely ___ splinting from rib fracture. Improved with incentive 
spirometry and pain control.

CHRONIC ISSUES:
===============
#HTN
SBPs running high to 150s.
- Continued home metop succ 50 daily fractionated to metop
tartrate 25 BID
- Held home lisinopril and HCTZ iso ___ as above, restarted home 
lisinopril on day of discharge 

#HLD
- Continued home simvastatin 40 daily

#ASCVD Prevention
- Continued ASA 81 daily
- Continued Simvastatin 40 daily

#Vitamin D deficiency
-Continued vit D 2000U daily

Transitional Issues
- Will likely need further cardiac risk stratification in 
outpatient setting (Exercise stress) given STD in anterior leads 
and troponin leak. 
- Holding home Hctz in setting of recent ___. Please recheck BMP 
during PCP appointment, check blood pressure. Restart home Hctz 
if clinically indicated.

>30 minutes spent on discharge planning including face to face 
time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*28 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 40 mg PO DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Simvastatin 40 mg PO QPM  
6.  Vitamin D ___ UNIT PO DAILY  
7. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until discussing with 
your primary care doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
=======
Mechanical Fall
Non Displaced Rib Fractures
NSTEMI
Acute hypoxic respiratory Failure
Acute kidney injury

Secondary
=========
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital after falling and breaking 
your ribs

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your care was followed by the trauma service, who helped 
manage your pain. You did not need surgery for your injuries
- You worked with our physical therapists
- You were transferred to the medicine service to investigate 
for any underlying causes of your fall and to examine your heart 
given some concerning findings on EKG (electrocardiogram)
- You had an echocardiogram which showed good pump function of 
your heart

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.
- Please talk about more testing for your heart (stress test) 
with your primary care doctor if he or she thinks it is 
indicated
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.

We wish you the best!  

Sincerely,  

Your ___ Team  

 
Followup Instructions:
___